US08957080B2
Into a 100 mL 3-necked round-bottom flask purged and maintained under an inert atmosphere of nitrogen, was placed tert-butyl (3R)-3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate (400 mg, 0.90 mmol, 1.00 equiv), 2-[4-(3,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (360 mg, 1.08 mmol, 1.20 equiv), sodium carbonate (190 mg, 1.79 mmol, 1.99 equiv), ethylene glycol dimethyl ether (50 mL), water (15 mL), and Pd(PPh3)4 (52 mg, 0.04 mmol, 0.05 equiv). The resulting solution was stirred for 12 h at 80° C. and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100/1) to give 340 mg (72%) of tert-butyl (3R)-3-[4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate as a yellow solid.

reactant | tert-butyl (3R)-3-[4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 0.90 mmol, 400 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-[4-(3,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.08 mmol, 360 mg, 1.20 equiv | FC=1C=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C(C1)F | C18H19BF2O3
reactant | sodium carbonate | 1.79 mmol, 190 mg, 1.99 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethylene glycol dimethyl ether | 50 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 52 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 15 mL | O | H2O
product | tert-butyl (3R)-3-[4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidine-1-carboxylate | 340 mg, 72% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC(=C2)F)F)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
